US05641727
3-Amino-2-chloro-4-methylpyridine (4.3 g) was added to a solution of trichloromethyl chloformate (6.0 g) in ethyl acetate (100 ml) at 0° to 5° C. with stirring and the mixture was refluxed under heating for 6 hours. After removal of the solvent under reduced pressure, 2-chloro-4-methyl-3-pyridylisocyanate (4.9 g) was obtained. A mixture of 2-chloro-4-methyl-3-pyridylisocyanate (4.9 g) and trimethylsilyl azide (11 g) was refluxed under heating for 30 hours. After removal of excess trimethylsilyl azide under reduced pressure, methanol was added to the resulting residue. Thereafter, the methanol was distilled off under reduced pressure. The resulting residue was purified by flash column chromatography (eluent chloroform:ethanol=15:1) to obtain the desired 1-(2-chloro-4-methyl-3-pyridyl)-5(4H)-tetrazolinone (3.0 g). n.p. 160°-162° C.

reactant | 3-Amino-2-chloro-4-methylpyridine | 4.3 g | NC=1C(=NC=CC1C)Cl | C6H7ClN2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-methyl-3-pyridylisocyanate | 4.9 g | ClC1=NC=CC(=C1N=C=O)C | C7H5ClN2O
